US07456200B2
5-(5-Bromo-4-methyl-4H-[1,2,4]triazol-3-ylsulfanylmethyl)-3-(3-chloro-phenyl)-[1,2,4]oxadiazole
3-(3-Chloro-phenyl)-5-(4-methyl-4H-[1,2,4]triazol-3-ylsulfanylmethyl)-[1,2,4]oxadiazole was mixed with 30 ml of chloroform/pyridine(25/1) at room temperature. Then bromine in chloroform (0.5 ml) was added dropwise and the reaction mixture was heated at 70° C. overnight. The reaction mixture was diluted with chloroform and washed with saturated NH4Cl twice and the organic layer was dried with sodium sulfate, concentrated, the residue was triturated with diethyl ether to give the title compound (1.5 g, 57.5%, yellow solid). 1H-NMR(CDCl3) d(ppm): 8.05 (s, 1H), 7.94 (d, 1H), 7.47(d, 1H), 7.43 (t, 1H), 4.66 (s, 2H) and 3.59 (s, 3H).

reactant | 3-(3-Chloro-phenyl)-5-(4-methyl-4H-[1,2,4]triazol-3-ylsulfanylmethyl)-[1,2,4]oxadiazole | ClC=1C=C(C=CC1)C1=NOC(=N1)CSC1=NN=CN1C | C12H10ClN5OS
reactant | bromine | BrBr | Br2
solvent | chloroform | 0.5 ml | C(Cl)(Cl)Cl | CHCl3
product | 5-(5-Bromo-4-methyl-4H-[1,2,4]triazol-3-ylsulfanylmethyl)-3-(3-chloro-phenyl)-[1,2,4]oxadiazole | 1.5 g, 57.5% | BrC=1N(C(=NN1)SCC1=NC(=NO1)C1=CC(=CC=C1)Cl)C | C12H9BrClN5OS
